* G:\My Drive\Graduate Reserach\LTSpice\Buck\BuckHybridBuck.asc
V1 N001 0 1
R1 N001 N002 1
M1 N002 NC_01 N003 N003 NMOS
M2 N003 NC_02 N007 N007 NMOS
M3 N007 NC_03 N010 N010 NMOS
M4 N010 NC_04 0 0 NMOS
D1 N003 N002 D
D2 N007 N003 D
D3 N010 N007 D
D4 0 N010 D
C1 N003 N004 1
C2 N007 N008 1
R2 N004 N005 1
R3 N008 N009 1
L1 P001 N006 1
R4 N010 P001 1
M5 N009 NC_05 0 0 NMOS
D5 0 N009 D
M6 N005 NC_06 0 0 NMOS
D6 0 N005 D
L2 P002 N006 1
R6 N005 P002 1
L3 P003 N006 1
R8 N009 P003 1
C6 N006 N011 1
V2 N006 0 1
R5 N011 0 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
